US05536737
a) (S)-1-(tert-Butoxycarbonyl)-2-[1-hydroxy-4-(phenylmethyloxy)butyl]pyrrolidine
A THF solution (20 ml) of N-(tert-butoxycarbonyl)-L-prolinal (4.50 g) was dropwise added to a THF solution (30 ml) of 3-(phenylmethyloxy)propyl magnesium chloride prepared from 1-chloro- 3-(phenylmethyloxy)propane (5.00 g), at -78° C. After stirring for 15 minutes, saturated ammonium chloride (10 ml) was added, and the reaction mixture was allowed to reach room temperature. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with 10% citric acid, saturated sodium hydrogencarbonate and saturated brine in order, dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel column chromatography (eluent: n-hexane-ethyl acetate) to give two stereoisomers (1.89 g of low polar isomer and 3.05 g of high polar isomer).

reactant | N-(tert-butoxycarbonyl)-L-prolinal | 4.50 g | C(C)(C)(C)OC(=O)N1[C@H](C=O)CCC1 | C10H17NO3
reactant | 3-(phenylmethyloxy)propyl magnesium chloride | C1(=CC=CC=C1)COCCC[Mg]Cl
reactant | 1-chloro- 3-(phenylmethyloxy)propane | 5.00 g | ClCCCOCC1=CC=CC=C1 | C10H13ClO
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | water | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (S)-1-(tert-Butoxycarbonyl)-2-[1-hydroxy-4-(phenylmethyloxy)butyl]pyrrolidine | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(CCCOCC1=CC=CC=C1)O | C20H31NO4
